US07291631B2
To a solution of (3-allyloxy-pyridin-2-yl)-methanol (2.08 g, 12.6 mmol) (Chen, Y. L. Eur. Pat. Appl. (1985), EP 150984) in CH2Cl2 (60 mL) was added Dess-Martin Periodinane (5.82 g, 13.7 mmol), and stirred at room temperature for 24 hours. CH2Cl2 (40 mL), saturated NaHCO3 (30 mL), and aqueous sodium thiosulfate (30 mL) were added and stirred for 40 minutes. The layers were separated and the aqueous phase was extracted with CH2Cl2 (2×50 mL). The combined organic extracts were washed with brine (1×75 mL), dried (Na2SO4), and concentrated to provide 2.02 g (98%) of 3-allyloxy-pyridine-2-carbaldehyde as a brown oil. 1H NMR (CDCl3) δ 4.71 (d, 2H, J=6.0 Hz), 5.37 (d, 1H, J=12.0 Hz), 5.50 (d, 1H, J=18.0 Hz), 5.99-6.12 (m, 1H), 7.38-7.48 (m, 2H), 8.40 (d, 1H, J=3.0 Hz), 10.41 (s, 1H).

reactant | (3-allyloxy-pyridin-2-yl)-methanol | 12.6 mmol, 2.08 g | C(C=C)OC=1C(=NC=CC1)CO | C9H11NO2
reactant | Dess-Martin Periodinane | 13.7 mmol, 5.82 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
reactant | sodium thiosulfate | 30 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-allyloxy-pyridine-2-carbaldehyde | 2.02 g, 98% | C(C=C)OC=1C(=NC=CC1)C=O | C9H9NO2
